US09314464B2
Intermediate. 5-bromo-3-methoxy-2-methylaniline
A heterogeneous reaction mixture of 4-bromo-2-methoxy-6-nitrotoluene (500 mg, 2.032 mmol), acetic acid (20 ml), and iron (1135 mg, 20.32 mmol) was stirred at rt for 24 hr. Ethyl acetate was added, then the mixture was filtered through celite and the filtrate concentrated. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous layer was extracted with further ethyl acetate. The combined organic phases were washed with water and brine, then dried over sodium sulfate, filtered and concentrated to afford the title compound. MS m/z: 218.0 (M+H)+.

reactant | 4-bromo-2-methoxy-6-nitrotoluene | 2.032 mmol, 500 mg | BrC1=CC(=C(C(=C1)[N+](=O)[O-])C)OC | C8H8BrNO3
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 20.32 mmol, 1135 mg | [Fe] | Fe
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-methoxy-2-methylaniline | BrC=1C=C(C(=C(N)C1)C)OC | C8H10BrNO
